US07091214B2
To a stirred solution of 7-bromo-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinoline (51.1 g, 0.148 mol) in dichloromethane (1 L) was slowly added 3-chloroperoxybenzoic acid (1.0 equivalent of 50% pure material) in small portions. The reaction was maintained at room temperature for one hour. Concentrated ammonium hydroxide (600 mL) was added with stirring. After 15 minutes, p-toluenesulfonyl chloride (1.1 equivalents.) was added in small portions. The reaction was stirred at room temperature overnight. The reaction was quenched by adding water (1 L) and stirred for an additional hour. A solid was present and was isolated by filtration to provide 7-bromo-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as an off-white solid.

reactant | 7-bromo-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinoline | 0.148 mol, 51.1 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)CCC | C17H20BrN3
reactant | 3-chloroperoxybenzoic acid | 1.0 equivalent | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 600 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 1.1 equivalents | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 7-bromo-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC | C17H21BrN4
